US08048878B2
Synthesis of (4R,9aS)-4-(3,4,5-trifluorophenyl)hexahydropyrido[2,1-c][1,4]oxazin-6-one
Platinum oxide (20.1 mg) was added to a solution of (4R,9aS)-4-(3,4,5-trifluorophenyl)-3,4,7,9a-tetrahydro-1H-pyrido[2,1-c][1,4]oxazin-6-one (250 mg) in methanol (6 mL), and the reaction solution was stirred in a hydrogen atmosphere at room temperature for two hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure to obtain 252 mg of the title compound. The property value of the compound is as follows.

reactant | (4R,9aS)-4-(3,4,5-trifluorophenyl)-3,4,7,9a-tetrahydro-1H-pyrido[2,1-c][1,4]oxazin-6-one | 250 mg | FC=1C=C(C=C(C1F)F)[C@H]1N2[C@H](COC1)C=CCC2=O | C14H12F3NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 6 mL | CO | CH4O
catalyst | Platinum oxide | 20.1 mg | [Pt]=O
product | (4R,9aS)-4-(3,4,5-trifluorophenyl)hexahydropyrido[2,1-c][1,4]oxazin-6-one | 252 mg | FC=1C=C(C=C(C1F)F)[C@H]1N2[C@H](COC1)CCCC2=O | C14H14F3NO2
